US08633173B2
186 b) To a solution of 4-(3-nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (0.50 g, 1.6 mmol) in dichloromethane (5 mL) was added m-CPBA 70-75% (0.57 g, 2.3 mmol). The mixture was stirred at room temperature for 18 hours. The reaction was quenched by the addition of saturated aqueous sodium thiosulfate solution followed by saturated aqueous sodium bicarbonate. The mixture was stirred for 1 hour. The mixture was extracted with dichloromethane (3×20 mL). The combined organic layers were dried over magnesium sulfate, filtered and evaporated. The residue was purified via chromatography (silica gel column 40 g and 10%→80% ethyl acetate:hexane solvent gradient). 6-(3-Nitro-phenyl)-7-oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid tert-butyl ester was isolated as a yellow oil (0.335 g, 64%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.24 (s, 1H), 8.17 (d, J=7.9 Hz, 1H), 7.70 (d, J=7.8 Hz, 1H), 7.55 (t, J=7.9 Hz, 1H), 4.22-3.98 (m, 1H), 3.90-3.62 (m, 2H), 3.31-3.14 (m, 2H), 2.56-2.46 (m, 1H), 2.25-2.12 (m, 1H), 1.49 (s, 9H). MS=343 (M+Na)+.

reactant | 4-(3-nitro-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 1.6 mmol, 0.50 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C16H20N2O4
reactant | m-CPBA | 2.3 mmol, 0.57 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 6-(3-Nitro-phenyl)-7-oxa-3-aza-bicyclo[4.1.0]heptane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2OC2(CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C16H20N2O5
